US04358307
A mixture of 4-[N-methyl-N-(6-chloro-2-quinoxalinyl)amino]phenol (4 mmole), ethyl 2-bromopropionate (1 ml), potassium carbonate (1.0 g) and butanone (100 ml) was heated under reflux for a period of 12 hr. The solvent was removed by distillation under reduced pressure and the residue was purified by column chromatography over silica gel (eluant dichloromethane/ethanol 98:2) to give ethyl 2-{4-[N-methyl-N-(6-chloro-2-quinoxalinyl)amino]phenoxy}propionate as an oil.

reactant | 4-[N-methyl-N-(6-chloro-2-quinoxalinyl)amino]phenol | 4 mmole | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(C=C1)O | C15H12ClN3O
reactant | ethyl 2-bromopropionate | 1 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | ethyl 2-{4-[N-methyl-N-(6-chloro-2-quinoxalinyl)amino]phenoxy}propionate | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H20ClN3O3
